US08119661B2
Step A: The preparation of but-2-ynyl 3-[4-[(3aS,7aS)-2-oxo-3a,4,5,6,7,7a-hexahydro-3H-benzimidazol-1-yl]-1-piperidyl]-3-methyl-pyrrolidine-1-carboxylate (mixture of diastereomers)
Following the procedure used in example 16 and starting from (3aS,7aS)-3-[1-(3-methylpyrrolidin-3-yl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-one (HCl salt, 0.6 g, 1.75 mmol) and but-2-ynyl chloroformate (0.218 mL, 1.92 mmol), the title compound (0.239 g, 33.9%) was obtained after purification by preparative LC/MS (high pH) as a mixture of diastereomers. MS (M+1): 403.3

reactant | (3aS,7aS)-3-[1-(3-methylpyrrolidin-3-yl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-one | 1.75 mmol, 0.6 g | CC1(CNCC1)N1CCC(CC1)N1C(N[C@@H]2[C@@H]1CCCC2)=O | C17H30N4O
reactant | but-2-ynyl chloroformate | 1.92 mmol, 0.218 mL | ClC(=O)OCC#CC | C5H5ClO2
product | but-2-ynyl 3-[4-[(3aS,7aS)-2-oxo-3a,4,5,6,7,7a-hexahydro-3H-benzimidazol-1-yl]-1-piperidyl]-3-methyl-pyrrolidine-1-carboxylate | 0.239 g, 33.9% | O=C1N[C@@H]2[C@@H](N1C1CCN(CC1)C1(CN(CC1)C(=O)OCC#CC)C)CCCC2 | C22H34N4O3
